Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5][C:8]([O:7][O:6])([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C:8]1([H:9])[H:10],-2.49311724379
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.99012553796
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7],1.02426451737
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.19427872331
[H:5].[O:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.67728515013
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.546521891669999
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:6].[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])[H:11],5.87639653753
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.88913867655
[C:3]=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.15846761741
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.09036629757
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.59656920558
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2](=[C:3]=[O:4])[C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:12])[H:13],-0.2328544955
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:10]([H:11])([H:12])[H:13].[O:8][H:9],5.98492115431
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:4]([H:5])([H:6])[O:7][H:8].[H:1][O:2][C:3],3.05751419724
[H:11].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.3293156548
[H:1][O:2][C:3][C@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.38510304809
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11],4.01579229331
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[O:1],8.03910200506
[H:11].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.57200684181
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:5],4.2123638138
[C:1]=[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6],4.423950699690001
[H:1][C:2]#[C:3][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.64523273613
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10].[H:11],4.26241775712
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],1.06322588392
[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.82060025506
[H:1][C:2]=[C:3]([H:4])[C:5][O:8][C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]1=[C:6]([H:7])[O:8]1,-2.46145623085
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],5.5099879534800005
[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.93495299442
